data/mechanism_extracts/GreenChem/10.1039_c9gc02665g.json
{"doi": "10.1039_c9gc02665g", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical oxidative tandem cyclization of olefinic carbonyls (1,3-dicarbonyls and N-allylamides) with diselenides to form seleno-dihydrofurans and seleno-oxazolines, constructing C-Se and C-O bonds simultaneously", "mechanism_family": ["radical_anodic", "paired_electrolysis", "radical_polar_crossover"], "electrochemical_role": "Cathode reduces diaryl diselenide to a [RSeSeR]•- radical anion that fragments into ArSe• and ArSe-; the selenyl radical adds to the alkene, and the resulting C-radical is oxidized at the anode to a carbocation that is trapped intramolecularly by the enol oxygen", "key_intermediates": [{"name": "diphenyl diselenide radical anion [PhSeSePh]•-", "smiles": null, "role": "transient"}, {"name": "phenylselenyl radical PhSe•", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylselenide anion PhSe-", "smiles": "[Se-]c1ccccc1", "role": "reactive"}, {"name": "alkyl C-radical from PhSe• addition to alkenyl carbonyl (intermediate II)", "smiles": null, "role": "reactive"}, {"name": "alkyl carbocation after anodic oxidation of II", "smiles": null, "role": "transient"}], "electron_flow": "At the cathode, ArSeSeAr accepts one electron to form a radical anion that dissociates into ArSe• and ArSe-; ArSe• adds across the alkene of the olefinic carbonyl giving a β-selenyl C-radical, which is oxidized at the anode to a cation, then intramolecular O-attack by the enol oxygen and deprotonation deliver the dihydrofuran (or oxazoline). Protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Addition of 0.6 mmol (2 equiv) TEMPO suppressed the reaction; only trace 3ba detected, supporting radical intermediates"}, {"name": "diphenyl diselenide (CV study)", "smiles": "[Se](c1ccccc1)[Se]c1ccccc1", "purpose": "redox_probe", "observation": "Cyclic voltammetry showed oxidation at +1.8 V and reduction at -1.5 V vs Ag/AgCl, indicating PhSeSePh can participate in both anodic and cathodic processes"}], "evidence_types_used": ["intermediate_trap_TEMPO", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Authors propose two pathways: path (a, favored) involves cathodic reduction of PhSeSePh to PhSe• which adds to the alkene, followed by anodic oxidation of the resulting C-radical; path (b) cannot be fully ruled out — direct anodic oxidation of 1b first to an enol/α-carbonyl radical that is then attacked by PhSe•/PhSeSePh. H2 evolution at the cathode is invoked to balance the redox."}
